US08022205B2
4-(6-Methoxy-pyridin-3-yl)-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (B-10)
To 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (20 mg, 0.0629 mmol), 2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (29.6 mg, 0.126 mmol), palladium acetate (1.4 mg, 0.00630 mmol), S-Phos (5.2 mg, 0.0126 mmol) and potassium phosphate (26.7 mg, 0.126 mmol), dimethylformamide (1 ml) was added, followed by being degassed under ultrasonic irradiation. This was stirred at 100° C. for 3 hours, followed by extraction with ethyl acetate with the addition of water, and the organic layer was washed with brine. After drying over anhydrous sodium sulfate, concentration was carried out under reduced pressure, followed by elution with 2M ammonia methanol solution through SCX resin and then concentration.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | 0.0629 mmol, 20 mg | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | 2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.126 mmol, 29.6 mg | COC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO3
reactant | S-Phos | 0.0126 mmol, 5.2 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | potassium phosphate | 0.126 mmol, 26.7 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.00630 mmol, 1.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(6-Methoxy-pyridin-3-yl)-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC1=CC=C(C=N1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C21H22N6O2
